US07026352B1
(8E,12E,14E)-3,6,21-Trihydroxy-7-oxo-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound B72)
A solution of (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (10 mg, 14 μmol) obtained in Example B39 in chloroform (0.5 mL) was added to a suspension of Dess-Martin reagent (60 mg, 140 μmol) in chloroform (2 mL), followed by stirring at room temperature for 3 hours. The reaction mixture was poured into a sodium thiosulfate aqueous solution, and the mixture was vigorously stirred. Then, ethyl acetate was added thereto, and the organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated. The resulting residue was dissolved in 2 mL of methanol and pyridinium p-toluenesulfonate (3 mg, 11 μmol) was added thereto, followed by stirring at room temperature for 20 hours. The solvent was removed, and the resulting residue was dissolved in ethyl acetate. The mixture was washed with a saturated sodium bicarbonate aqueous solution and brine, dried over anhydrous magnesium sulfate and evaporated. The resulting residue was purified by thin layer chromatography (MERCK Silica gel 60 F254, 0.2 mm, developing solution; hexane:ethyl acetate=1:5) and preparative HPLC (Shiseido CAPCELL PAK C18, 10 mm I.D.×250 mm, eluate; acetonitrile:water=20:80–80:20) to give the title compound (0.11 mg, 2%) as a colorless oil.

reactant | (8E,12E,14E)-3,6,21-tri(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 14 μmol, 10 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C | C40H70O10
reactant | Dess-Martin reagent | 140 μmol, 60 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridinium p-toluenesulfonate | 11 μmol, 3 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-3,6,21-Trihydroxy-7-oxo-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.11 mg, 2% | OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)O)=O)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C | C28H44O7
